* C:\users\michal\Desktop\Geiger\projekt\dodatkowe.asc
V1 N001 0 400
R1 N003 N002 5.1Meg
I1 N003 N005 PULSE(0 5 10m 1u 1u 5u 50m) load
R2 N002 N001 100k
C1 N002 0 10n
R4 N009 0 100k
C2 N005 0 330p
Q1 N007 N009 0 0 BC108B
R5 N004 N007 100k
V2 N004 0 5V
C3 N007 0 100n
Q2 N006 N007 0 0 BC108B
R8 N004 N006 10k
R3 N005 N009 10k
V3 N011 0 5V
Q3 N013 N012 N011 0 BC178B
D1 N014 0 L1C1-DRD1000000000
R6 N012 0 22k
V4 N010 0 PULSE(8.4 5 0 100m 1m 0 100m)
R7 N010 N012 12k
R9 N013 N014 470
Q10 WYJSCIE N006 N008 0 BC108B
R13 N004 WYJSCIE 1k
R14 N008 0 100
C4 WYJSCIE N012 100n
.model D D
.lib C:\users\michal\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\michal\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 200m 0 startup
* Ukad detekcji impulsow
* Wskaznik rozladowania baterii
.backanno
.end
